US05763408
Boc-Asp(OBzl)-Ser(Bzl)-OBzl (42.1 g) was dissolved in dioxane (100 ml), added with a solution of 4M-HCl/dioxane (150 ml) and stirred for 1 hour at room temperature. The reaction mixture was evaporated under reduced pressure and the residue was crystallized from ether to give Asp(OBzl)-Ser(Bzl)-OBzl hydrochloride (33.7 g).

reactant | Boc-Asp(OBzl)-Ser(Bzl)-OBzl | 42.1 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C33H38N2O8
reactant | HCl dioxane | 150 ml | Cl.O1CCOCC1
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | Asp(OBzl)-Ser(Bzl)-OBzl hydrochloride | 33.7 g | N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1.Cl | InChI=1S/C28H30N2O6.ClH/c29-24(16-26(31)35-18-22-12-6-2-7-13-22)27(32)30-25(20-34-17-21-10-4-1-5-11-21)28(33)36-19-23-14-8-3-9-15-23;/h1-15,24-25H,16-20,29H2,(H,30,32);1H/t24-,25-;/m0./s1
